Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[CH2:1][c:2]1[cH:3][cH:4][c:5]([O:6][CH3:7])[cH:8][cH:9]1.[CH3:10][O:11][C:12](=[O:13])[c:14]1[n:15][nH:16][cH:17][c:18]1[N+:19](=[O:20])[O-:21]>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([O:6][CH3:7])[cH:8][cH:9]1)[n:16]1[n:15][c:14]([C:12]([O:11][CH3:10])=[O:13])[c:18]([N+:19](=[O:20])[O-:21])[cH:17]1,[CH3:10][O:11][C:12](=[O:13])[c:14]1[n:15][nH:16][cH:17][c:18]1[N+:19](=[O:20])[OH:21].[Cl:101][CH2:1][c:2]1[cH:3][cH:4][c:5]([O:6][CH3:7])[cH:8][cH:9]1>>[CH2:1]([c:2]1[cH:3][cH:4][c:5]([O:6][CH3:7])[cH:8][cH:9]1)[n:16]1[n:15][c:14]([C:12]([O:11][CH3:10])=[O:13])[c:18]([N+:19](=[O:20])[OH:21])[cH:17]1,SN2,"[(16, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([C@@H:2]([NH:3][S:4]([c:5]1[cH:6][cH:7][c:8]([CH3:9])[cH:10][cH:11]1)(=[O:12])=[O:13])[CH:14]([CH3:15])[CH3:16])=[O:17].[CH3:18][C:19]([CH3:20])([CH3:21])[O:22][C:23](=[O:24])[NH:25][CH:26]([CH2:27][c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[CH:34]([OH:35])[CH:36]([NH2:37])[CH2:38][c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1>>[C:1]([C@@H:2]([NH:3][S:4]([c:5]1[cH:6][cH:7][c:8]([CH3:9])[cH:10][cH:11]1)(=[O:12])=[O:13])[CH:14]([CH3:15])[CH3:16])(=[O:17])[NH:37][CH:36]([CH:34]([CH:26]([NH:25][C:23]([O:22][C:19]([CH3:18])([CH3:20])[CH3:21])=[O:24])[CH2:27][c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[OH:35])[CH2:38][c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1,[CH3:18][C:19]([CH3:20])([CH3:21])[O:22][C:23](=[O:24])[NH:25][CH:26]([CH2:27][c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[CH:34]([OH:35])[CH:36]([NH2:37])[CH2:38][c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1.[OH:101][C:1]([C@@H:2]([NH:3][S:4]([c:5]1[cH:6][cH:7][c:8]([CH3:9])[cH:10][cH:11]1)(=[O:12])=[O:13])[CH:14]([CH3:15])[CH3:16])=[O:17].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@@H:2]([NH:3][S:4]([c:5]1[cH:6][cH:7][c:8]([CH3:9])[cH:10][cH:11]1)(=[O:12])=[O:13])[CH:14]([CH3:15])[CH3:16])(=[O:17])[NH:37][CH:36]([CH:34]([CH:26]([NH:25][C:23]([O:22][C:19]([CH3:18])([CH3:20])[CH3:21])=[O:24])[CH2:27][c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1)[OH:35])[CH2:38][c:39]1[cH:40][cH:41][cH:42][cH:43][cH:44]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (37, 1), ([1, 17], 17), (303, 37.1), ([37.1, 37], 37), (17, [17, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH:3]1[CH2:4][CH2:5][O:6][CH2:7][CH2:8]1.[OH:9][C@@H:10]1[CH2:11][CH2:12][NH:13][CH2:14]1>>[C:1](=[O:2])([CH:3]1[CH2:4][CH2:5][O:6][CH2:7][CH2:8]1)[N:13]1[CH2:12][CH2:11][C@@H:10]([OH:9])[CH2:14]1,[OH:101][C:1](=[O:2])[CH:3]1[CH2:4][CH2:5][O:6][CH2:7][CH2:8]1.[OH:9][C@@H:10]1[CH2:11][CH2:12][NH:13][CH2:14]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH:3]1[CH2:4][CH2:5][O:6][CH2:7][CH2:8]1)[N:13]1[CH2:12][CH2:11][C@@H:10]([OH:9])[CH2:14]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (13, 1), ([1, 2], 2), (303, 13.1), ([13.1, 13], 13), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[N-:8]=[N+:9]=[N:10][CH2:11][C@@H:12]1[CH2:13][C@H:14]([OH:15])[C:16]([OH:17])=[C:18]([OH:19])[O:20]1>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:15][C@H:14]1[CH2:13][C@@H:12]([CH2:11][N:10]=[N+:9]=[N-:8])[O:20][C:18]([OH:19])=[C:16]1[OH:17],[N-:8]=[N+:9]=[N:10][CH2:11][C@@H:12]1[CH2:13][C@H:14]([OH:15])[C:16]([OH:17])=[C:18]([OH:19])[O:20]1.[Br:101][CH2:1][c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1.[H-:301].[Na+]>>[CH2:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[O:15][C@H:14]1[CH2:13][C@@H:12]([CH2:11][N:10]=[N+:9]=[N-:8])[O:20][C:18]([OH:19])=[C:16]1[OH:17],SN2_alcohol(thiol),"[(301, 15.1), ([15.1, 15], 15), (15, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
